US08383652B2
0.31 mL (2.10 mmol) of heptylamine is added to a solution of 0.51 g (1.05 mmol) of ethyl (Z)-2-ethoxy-3-{3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}acrylate in 15 mL of dimethylformamide. The tube is sealed and rapidly placed in an oil bath preheated to 80° C. The reaction mixture is stirred at 80° C. for 1 hour 30 minutes. After cooling, the reaction is worked up by addition of 10 mL of water and extraction with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and then dried over magnesium sulfate. The solvents are evaporated off. The crude product obtained is purified by chromatography on a column of silica eluted with a 75/25 heptane/ethyl acetate mixture to give 0.38 g (77%) of ethyl (Z)-2-ethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate in the form of a colorless oil.

reactant | heptylamine | 2.10 mmol, 0.31 mL | C(CCCCCC)N | C7H17N
reactant | ethyl (Z)-2-ethoxy-3-{3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}acrylate | 1.05 mmol, 0.51 g | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C | C27H26N2O7
reactant | water | 10 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | ethyl (Z)-2-ethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate | 0.38 g, 77% | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C28H38N2O4
